US06599902B2
Synthesis of 3-[1-{4-[3-(4-Cyclopropylamino-piperidin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
To a mixture of 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid (178 mg, 0.33 mmol), EDAC (135 mg, 0.7 mmol) and HOBt (45 mg, 0.33 mmol) in DMF (4 mL) was added cyclopropyl-piperidin-4-yl-amine (100 mg, 0.7 mmol) and TEA (0.14 mL). The mixture was stirred at rt for 2 days. The reaction was diluted with and NaHCO3, extracted with DCM. The combined extracts were concentrated and the residue was purified on a silica gel column to give the titled compound.

reactant | 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid | 0.33 mmol, 178 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CCC(=O)O)C | C25H22Cl2N2O5S
reactant | EDAC | 0.7 mmol, 135 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.33 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropyl-piperidin-4-yl-amine | 0.7 mmol, 100 mg | C1(CC1)NC1CCNCC1 | C8H16N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-[1-{4-[3-(4-Cyclopropylamino-piperidin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C1(CC1)NC1CCN(CC1)C(CCC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C33H36Cl2N4O4S
